US08003649B2
tert-Butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (3.15 g, 14.83 mmol) was added to a mixture of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (3 g, 13.48 mmol) and diisopropyethylamine (4.66 mL, 26.96 mmol) and ethanol (50 mL). The mixture was warmed to 70° C. over a period of 10 minutes, stirred at 70° C. for 1 hour, and then allowed to cool to ambient temperature to give a precipitate. The precipitate was collected by filtration, washed with ethanol (50 mL), and dried under vacuum to afford tert-butyl 5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (3.00 g, 55.9%) as a white solid.

reactant | tert-Butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 14.83 mmol, 3.15 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 13.48 mmol, 3 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | diisopropyethylamine | 26.96 mmol, 4.66 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | tert-butyl 5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 3.00 g, 55.9% | FC(C1=NN=C2N1N=C(C=C2)N2CC1C(C2)CN(C1)C(=O)OC(C)(C)C)(F)F | C17H21F3N6O2
